US07994196B2
A mixture of 5-amino-2-chloro-4-nitrobenzotrifluoride (synthesized according to the method described in J. Org. Chem., 60, 18, 1995, 5838-5842, 24.9 g) and 48% aqueous hydrogen bromide (400 ml) was ice-cooled. Sodium nitrite (12.9 g) was dissolved in a small amount of water and added dropwise thereto. The reaction mixture was stirred for 4 hr while warming from −5° C. to 15° C., ice-cooled and alkalified with a 6N aqueous sodium hydroxide solution. The precipitated solid was collected by filtration and washed with water to give a brown solid. The solid was purified by silica gel column chromatography (elution solvent:ethyl acetate-hexane (1:50)) to give 5-bromo-2-chloro-4-nitrobenzotrifluoride (17.7 g, yield 56%).

reactant | 5-amino-2-chloro-4-nitrobenzotrifluoride | NC=1C(=CC(=C(C1)C(F)(F)F)Cl)[N+](=O)[O-] | C7H4ClF3N2O2
reactant | hydrogen bromide | 400 ml | Br | BrH
reactant | Sodium nitrite | 12.9 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | water | O | H2O
product | 5-bromo-2-chloro-4-nitrobenzotrifluoride | 17.7 g, yield 56% | BrC=1C(=CC(=C(C1)C(F)(F)F)Cl)[N+](=O)[O-] | C7H2BrClF3NO2
